US08183380B2
1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-3-piperidin-4-yl-urea
4-{3-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-ureido}-piperidine-1-carboxylic acid tert-butyl ester (20 mg, 0.040 mmol) was dissolved in methylene chloride (1.0 mL). At 0° C. trifluoroacetic acid (0.030 mL, 0.40 mmol) was added and the reaction mixture was stirred at ambient temperature over night. 20% sodium carbonate solution in water was added and the mixture was extracted with ethyl acetate (3×10 mL). The combined organic phases were dried on magnesium sulfate, filtered and evaporated. The residue was subjected to column chromatography (silica gel, methylene chloride:methanol gradient=95:5→2:1) to yield the title compound (5.0 mg; 31%) as an off-white solid; MS: m/e=402.5 (M+H+).

reactant | 4-{3-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-ureido}-piperidine-1-carboxylic acid tert-butyl ester | 0.040 mmol, 20 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)NC=1C=C2C=CC(=NC2=CC1)N[C@@H]1CCC2=CC=CC=C12 | C29H35N5O3
reactant | trifluoroacetic acid | 0.40 mmol, 0.030 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-3-piperidin-4-yl-urea | 5.0 mg, 31% | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)NC1CCNCC1 | C24H27N5O
